US05455258
3-[4-Methoxybenzenesulfonyl]-5,5-dimethylthiazolidine-4(S)-carboxylic acid (2.0 g, 6.0 mmol) is dissolved in methylene chloride (30.0 mL). To this solution is added oxalyl chloride (1.1 mL, 12.1 mmol) and dimethylformamide (0.50 mL, 6.0 mmol), and the reaction is stirred at room temperature for 2 hours. Meanwhile, in a separate flask, hydroxylamine hydrochloride (1.74 g, 25.0 mmol) and triethylamine (5.0 mL, 36.0 mmol) are stirred in tetrahydrofuran (25.0 mL) and water (2.0 mL) at 0° C. for 15 minutes. After 2 hours, the methylene chloride solution is added in one portion to the second flask, and the combined contents are stirred overnight as the flask gradually warms up to room temperature. The reaction is then diluted with acidic water (pH=~3), and extracted several times with ethyl acetate. The combined organic layers are dried (Na2SO4), and the solvent is evaporated. The product is purified by silica gel chromatography (60% ethyl acetate/hexane) to give N-hydroxy-3-[4-methoxybenzenesulfonyl]-5,5-dimethylthiazolidine-4(S)-carboxamide, m.p. 68°-71° C.

reactant | 3-[4-Methoxybenzenesulfonyl]-5,5-dimethylthiazolidine-4(S)-carboxylic acid | 6.0 mmol, 2.0 g | COC1=CC=C(C=C1)S(=O)(=O)N1CSC([C@@H]1C(=O)O)(C)C | C13H17NO5S2
reactant | oxalyl chloride | 12.1 mmol, 1.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 6.0 mmol, 0.50 mL | CN(C=O)C | C3H7NO
reactant | hydroxylamine hydrochloride | 25.0 mmol, 1.74 g | Cl.NO
reactant | triethylamine | 36.0 mmol, 5.0 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30.0 mL | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 25.0 mL | O1CCCC1 | C4H8O
solvent | water | pH=~3 | O | H2O
solvent | water | 2.0 mL | O | H2O
product | N-hydroxy-3-[4-methoxybenzenesulfonyl]-5,5-dimethylthiazolidine-4(S)-carboxamide | ONC(=O)[C@@H]1N(CSC1(C)C)S(=O)(=O)C1=CC=C(C=C1)OC | C13H18N2O5S2
